US04917826
4-(4'-Cyclohexylcyclohexylidene)cyclohexanone
A solution of 4-(4'-cyclohexylcyclohexylidene)cyclohexanone dimethyl ketal (0.016 mol) and 1.0 N HCl (100 ml) in tetrahydrofuran (125 ml) was left at room temperature for 2.5 hours at which time TLC indicated hydrolysis to be complete. Water and brine were added to the reaction solution and the mixture was extracted with ether (4X). The pooled ether extracts were washed with brine, dried (Na2SO4), filtered, and concentrated to give 4.49 g of white solid. This solid was chromatographed (790 g of 40-63 μm silica gel, 4.5 1 of 5% ethyl acetate-hexane followed by 10% ethyl acetate-hexane) with 4-(4'-cyclohexylcyclohexylidene)cyclohexanone dimethyl ketal (0.56 g, 10%) eluted first followed by the title compound. Recrystallization of the title compound from hexane gave colorless crystals, mp 81°-81.5° C.

reactant | 4-(4'-cyclohexylcyclohexylidene)cyclohexanone dimethyl ketal | 0.016 mol | COC1(CCC(CC1)=C1CCC(CC1)C1CCCCC1)OC | C20H34O2
reactant | HCl | 1.0 N, 100 ml | Cl | ClH
reactant | Water | O | H2O
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 4-(4'-Cyclohexylcyclohexylidene)cyclohexanone | 4.49 g | C1(CCCCC1)C1CCC(CC1)=C1CCC(CC1)=O | C18H28O
